US03974202
6 H2O, 2 g manganese powder (150 u) and 1 g Na2S2O4 were added to 100 ml of methanol in a CO atmosphere. Then CO was passed through the mixture with stirring (500 rpm) at 35°C for 30 minutes with an overpressure of 600 mm Hg. At 55°C, 190 g of benzyl chloride was added to the reaction mixture. Then, over a period of 3 hours with the steady passage of CO, 355 g of 24 wt-% sodium methylate solution was fed in with a stirring speed of 500 to 750 rpm. Carbon monoxide was introduced for another 21/2 hours, approximately, until no more absorption took place. Then water was added to the mixture and the latter was separated from the manganese. The mixture was extracted with ether. After the ether was removed by distillation there remained a reaction mixture from which 3.5 g of benzyl chloride and 189 g of phenylacetic acid methyl ester (yield 85.4%) were isolated by distillation.

reactant | Na2S2O4 | 1 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | benzyl chloride | 190 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium methylate | C[O-].[Na+]
reactant | Carbon monoxide | [C]=O | CO
reactant | methanol | 100 ml | CO | CH4O
catalyst | manganese | 2 g | [Mn] | Mn
solvent | H2O | O | H2O
product | phenylacetic acid methyl ester | 189 g, yield 85.4% | COC(CC1=CC=CC=C1)=O | C9H10O2
